US05576321
Preparation of (2S)-(+)-3-[4-(7-chloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 1 using (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.406 g, 2.13 mmol) and 7-chloro-3-(piperidin-4-yl)-1H-indole (0.500 g, 2.13 mmol) using ethanol as reaction solvent. Yield 0.325 g (35%) as a colorless powder. mp 186°-189° C. FDMS m/e=423 (M+ of free base). α[D]589 =+8.44 (c=1.09, dimethylsulfoxide).

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 2.13 mmol, 0.406 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 7-chloro-3-(piperidin-4-yl)-1H-indole | 2.13 mmol, 0.500 g | ClC=1C=CC=C2C(=CNC12)C1CCNCC1 | C13H15ClN2
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (2S)-(+)-3-[4-(7-chloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)-2-propanol | ClC=1C=CC=C2C(=CNC12)C1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C24H26ClN3O2
